US04029772
To a stirred solution of methylhydrazine (0.07 mole) and triethylamine (0.06 mole) in dry tetrahydrofuran (100 ml) at 0° to 5° C. is added (1-ethoxycarbonyl)-ethylisocyanate (0.06 mole) over a period of 1 hour. The reaction mixture is allowed to warm to room temperature for 1 hour and filtered. The filtrate is evaporated to dryness and the residue is recrystallized from ether to give pure 2-azaalanylalanine ethyl ester, m.p. 77° -79.5° C.

reactant | methylhydrazine | 0.07 mole | CNN | CH6N2
reactant | triethylamine | 0.06 mole | C(C)N(CC)CC | C6H15N
reactant | (1-ethoxycarbonyl)-ethylisocyanate | 0.06 mole | C(C)OC(=O)CCN=C=O | C6H9NO3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-azaalanylalanine ethyl ester | C(C)OC([C@@H](NC(N(N)C)=O)C)=O | C7H15N3O3
